US07041691B1
This example illustrates the preparation of 3-fluoro-4-(3-chloro-5-pyridyloxy)nitrobenzene (8.1).
3,4-Difluoronitrobenzene (5.0 g, 32 mmol) and 5-chloro-3-pyridinol were combined using the procedure described in Example 1, to produce 8.2 g of the title compound.

reactant | 3,4-Difluoronitrobenzene | 32 mmol, 5.0 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 5-chloro-3-pyridinol | ClC=1C=C(C=NC1)O | C5H4ClNO
product | 3-fluoro-4-(3-chloro-5-pyridyloxy)nitrobenzene | 8.2 g | FC=1C=C(C=CC1OC=1C=C(C=NC1)Cl)[N+](=O)[O-] | C11H6ClFN2O3
